US06262199B1
2-Methylindene
The ligand (1.0 g) obtained from the previous procedure was dissolved in anhydrous tetrahydofuran (40 ml) and a solution of n-butyllithium in hexane (1.6M, 4.4 ml) was and stirred for 3 hours. The solvents were removed under vacuum to obtain a off-white solid which was washed with dry hexane under nitrogen atmosphere. The solid was cooled to −78° C. and methylene chloride prechilled to −78° C. was added followed by a slurry of zirconium tetrachloride in methylene chloride which was also prechilled to −78° C. The reaction mixture was allowed to gradually come to room temperature and stirred overnight. The solution was filtered and the solid was washed with hexane. The hexane washings were added to the filtrate at which time a off-white solid precipitated. Upon filtration the filtrate was concentrated and cooled to −78° C. for several hours to obtain a yellow solid. This yellow solid (0.30 g) was isolated by filtration and was found to be a mixture (65:35) of rac- and meso-isomers by NMR spectroscopy. 1HNMR (CD2Cl2) (in ppm), 7.67(2d), 7.45(d), 7.08(t), 6.99(t), 6.76(s), 6.74(s), 6.64(s), 2.44(s), 2.20(s), 1.42(s), 1.29(s), 1.22(s). The solid was used as such in polymerizations.

reactant | n-butyllithium | C(CCC)[Li]
reactant | hexane | 1.6M, 4.4 ml | CCCCCC | C6H14
solvent | tetrahydofuran | 40 ml | O1CCCC1 | C4H8O
product | 2-Methylindene | 0.30 g | CC=1CC2=CC=CC=C2C1 | C10H10
